US04271164
The 2-chloro-6-methylbenzyl alcohol is dissolved in 100 ml of benzene, treated with 25 ml of thionyl chloride and the mixture is heated at reflux for 3 hours. Concentration of this mixture to dryness leaves a liquid which partly solidifies. The product containing liquid is decanted from the solid by-product and distilled to yield 7.8 g of alpha,2-dichloro-6-methyltoluene as a colorless liquid with bp. 118°-122° C./17-18 mm of Hg.

reactant | 2-chloro-6-methylbenzyl alcohol | ClC1=C(CO)C(=CC=C1)C | C8H9ClO
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | alpha,2-dichloro-6-methyltoluene | 7.8 g | ClCC1=C(C=CC=C1C)Cl | C8H8Cl2
